US04416890
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (2.3 g., 0.01 mole) and 4-dimethylaminopyridine (100 mg.) in pyridine (15 ml.) is added octanoyl chloride (1.7 ml.) over a period of 5 minutes. The reaction mixture is stirred 11/2 hours, poured into ice water and dilute hydrochloric acid, extracted into ethylacetate, washed with water, dried over magnesium sulfate and chromatographed on 35 g of silica gel (ethyl acetatehexane 1:1) to give 0.65 g of 2-sulfamoyl-6-benzothiazolyl octanoate which melts at 114° C. after recrystallization from butyl chloride.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | octanoyl chloride | 1.7 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-sulfamoyl-6-benzothiazolyl octanoate | 0.65 g | C(CCCCCCC)(=O)OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1 | C15H20N2O4S2
